US06169107A
The reaction was carried out in a manner similar to Example 1 except for using 2.00 g (8.94 mmol) of methyl 4-chloro-1-methyl-2-indolecarboxylate, 8.54 g (89.4 mmol) of guanidine hydrochloride and 50 ml of a methanol solution of 4.83 g (89.4 mmol) of sodium methoxide. Thus 1.06 g (41.3%) of 4-chloro-1-methyl-2-indoloylguanidine hydrochloride was obtained.

reactant | methyl 4-chloro-1-methyl-2-indolecarboxylate | 8.94 mmol, 2.00 g | ClC1=C2C=C(N(C2=CC=C1)C)C(=O)OC | C11H10ClNO2
reactant | guanidine hydrochloride | 89.4 mmol, 8.54 g | Cl.NC(=N)N
reactant | sodium methoxide | 89.4 mmol, 4.83 g | C[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 4-chloro-1-methyl-2-indoloylguanidine hydrochloride | 1.06 g, 41.3% | Cl.ClC1=C2C=C(NC2=CC=C1)C(=O)N=C(NC)N | InChI=1S/C11H11ClN4O.ClH/c1-14-11(13)16-10(17)9-5-6-7(12)3-2-4-8(6)15-9;/h2-5,15H,1H3,(H3,13,14,16,17);1H
